US08314091B2
B: N-tert-Butyl-3-((4-(5-chloro-4-(3-isobutylureido)-2-methoxybenzoyl)piperazin-1-yl)methyl)-benzamide
3-((4-(4-Amino-5-chloro-2-methoxybenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide (1.712 g, 0.0037 mol) and 4-nitrophenol chloroformate (0.7518 g, 0.0037 mol) were combined and stirred at room temperature in dichloromethane for 1 hour. Isobutylamine (0.1536 g 0.208 mol) was added and the reaction was stirred for a further 30 minutes. The reaction mixture was diluted with water and flushed through a hydrophobic frit. The organic phase was concentrated under vacuum and purified by acidic reverse phase HPLC affording the title compound (37 mg).

reactant | 3-((4-(4-Amino-5-chloro-2-methoxybenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.0037 mol, 1.712 g | NC1=CC(=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1Cl)OC | C24H31ClN4O3
reactant | 4-nitrophenol chloroformate | 0.0037 mol, 0.7518 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Isobutylamine | 0.208 mol, 0.1536 g | C(C(C)C)N | C4H11N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-tert-Butyl-3-((4-(5-chloro-4-(3-isobutylureido)-2-methoxybenzoyl)piperazin-1-yl)methyl)-benzamide | 37 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=C(C=C(C(=C1)Cl)NC(=O)NCC(C)C)OC)=O)=O | C29H40ClN5O4
